US07528143B2
2-Chloro-N-(2,4-dichloro-5-methoxyphenyl)-5-methylpyrimidin-4-amine (Intermediate 23)
To a solution of 2-chloro-5-methylpyrimidin-4-amine (44.8 mg, 0.31 mmol) in 1,4-dioxane (20 mL) was added 1-bromo-2,4-dichloro-5-methoxybenzene (96 mg, 0.37 mmol), Cs2CO3 (408 mg, 1.25 mmol), Pd2(dba)3 (37 mg, 0.04 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyxanthene (Xant Phos, 70 mg, 0.12 mmol). The mixture was heated under reflux for 4 h under Ar. The solid was filtered off and the filtrate washed with brine (1×100 mL). The organic solution was separated and dried (Na2SO4). The solvent was removed in vacuo. The crude product was used for next reaction without purification.

reactant | 2-chloro-5-methylpyrimidin-4-amine | 0.31 mmol, 44.8 mg | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 1-bromo-2,4-dichloro-5-methoxybenzene | 0.37 mmol, 96 mg | BrC1=C(C=C(C(=C1)OC)Cl)Cl | C7H5BrCl2O
reactant | Cs2CO3 | 1.25 mmol, 408 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyxanthene | 0.12 mmol, 70 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.04 mmol, 37 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Chloro-N-(2,4-dichloro-5-methoxyphenyl)-5-methylpyrimidin-4-amine | ClC1=NC=C(C(=N1)NC1=C(C=C(C(=C1)OC)Cl)Cl)C | C12H10Cl3N3O
